US07615557B2
In a dried, screwcapped test tube under argon to a mixture of 240 mg (2.49 mmol) sodium tert.-butanolate, 33 mg (0.04 mmol) of tris-(dibenzylideneacetone)-dipalladium(0) and 42 mg (0.11 mmol) of 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl in 3.1 ml of toluene were added 308 mg (1.96 mmol) of ethyl piperidinelcarboxylate and 341 mg (1.78 mmol) of 3-chlorobromobenzene. The mixture was stirred with heating overnight at 80° C. After cooling, ethyl acetate was added, solid material was filtered off, the solvents were evaporated and the residue was purified by preparative RP-HPLC in a water/acetonitrile gradient to yield ethyl 1-(3-chlorophenyl)-piperidine-4-carboxylate.

reactant | sodium tert.-butanolate | 2.49 mmol, 240 mg | C(C)(C)(C)[O-].[Na+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.11 mmol, 42 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 3-chlorobromobenzene | 1.78 mmol, 341 mg | ClC=1C=C(C=CC1)Br | C6H4BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3.1 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-(3-chlorophenyl)-piperidine-4-carboxylate | ClC=1C=C(C=CC1)N1CCC(CC1)C(=O)OCC | C14H18ClNO2
